US09422240B2
To a solution of 4-iodobenzaldehyde (10.4 g) in methanol (36 mL), tetraisopropyl orthotitanate (50.0 mL) and a solution (50 mL) of 8 mol/L ammonia in methanol were added and the mixture was stirred at room temperature for 3.5 hours. Trimethylsilyl cyanide (5.89 mL) was slowly added to the mixture, which was then stirred at the same temperature for 14 hours. Iced water was added to the reaction mixture, which was then filtered through Celite (registered trademark). The filtrate was concentrated under reduced pressure and the resulting residue was extracted with ethyl acetate. The combined organic layers were washed with water and dried over anhydrous magnesium sulfate. The desiccant was removed by filtration and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=99:1-25:75) to give amino(4-iodophenyl)acetonitrile as a pale yellow solid (5.05 g).

reactant | 4-iodobenzaldehyde | 10.4 g | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | ammonia | 8 mol/L, 50 mL | N | H3N
reactant | Trimethylsilyl cyanide | 5.89 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | water | O | H2O
solvent | methanol | 36 mL | CO | CH4O
solvent | tetraisopropyl orthotitanate | 50.0 mL | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | amino(4-iodophenyl)acetonitrile | 5.05 g | NC(C#N)C1=CC=C(C=C1)I | C8H7IN2
